US09034900B2
4-[2-(cis-4-aminocyclohexyl)oxy-5-methylsulfonylphenyl]-2-methylisoquinolin-1-one
To compound cis-4-aminocyclohexan-1-ol (275 mg, 1.81 mmol) in DMF (3 mL), was added NaH (127 mg, 3.17 mmol, 60% in mineral oil) in one portion at 0° C. The mixture was stirred at 0° C. for 30 min, 4-(2-fluoro-5-methylsulfonylphenyl)-2-methylisoquinolin-1-one (150.00 mg, 0.45 mmol) was added in one portion and the mixture stirred at 0° C. for 2 hrs. The reaction was diluted with water (20 mL) and extracted with EA (3×20 mL). The combined organic layers were washed with saturated brine (2×20 mL), dried with anhydrous Na2SO4, filtered and concentrated in vacuum. The residue was purified by prep-HPLC to give the title compound as its hydrochloride salt (91.01 mg, 47.1%). 1H NMR (DMSO-d6, 400 MHz) δ 8.29 (d, J=8.0 Hz, 1H), 8.00 (s, 3H), 7.95 (dd, J1=8.8 Hz, J2=2.0 Hz, 1H), 7.81 (d, J=2.0 Hz, 1H), 7.64 (t, J=7.2 Hz, 1H), 7.56 (s, 1H), 7.51 (t, J=7.2 Hz, 1H), 7.40 (d, J=8.8 Hz, 1H), 7.40 (d, J=8.0 Hz, 1H), 4.70 (s, 1H), 3.59 (s, 3H), 3.22 (s, 3H), 2.96-2.94 (m, 1H), 1.85-1.82 (m, 1H), 1.64-1.46 (m, 5H), 1.32-1.26 (m, 1H), 1.04-0.98 (m, 1H). LCMS (M+H)+=427.0 (M+H)+

reactant | cis-4-aminocyclohexan-1-ol | 1.81 mmol, 275 mg | N[C@H]1CC[C@H](CC1)O | C6H13NO
reactant | NaH | 3.17 mmol, 127 mg | [H-].[Na+]
reactant | 4-(2-fluoro-5-methylsulfonylphenyl)-2-methylisoquinolin-1-one | 0.45 mmol, 150.00 mg | FC1=C(C=C(C=C1)S(=O)(=O)C)C1=CN(C(C2=CC=CC=C12)=O)C | C17H14FNO3S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 4-[2-(cis-4-aminocyclohexyl)oxy-5-methylsulfonylphenyl]-2-methylisoquinolin-1-one | N[C@H]1CC[C@H](CC1)OC1=C(C=C(C=C1)S(=O)(=O)C)C1=CN(C(C2=CC=CC=C12)=O)C | C23H26N2O4S
